US07196104B2
Preparation BL: 2-Bromothiazole-4-carboxylic acid
To a well stirred suspension of ethyl 2-aminothiazole-4-carboxylate hydrobromide (29.99 g, 0.17 mol) in 16% HBr(aq) (400 mL) at 0° C., a solution of NaNO2 (12.49 g, 0.18 mol) in H2O (22 mL) was added dropwise. The mixture was maintained at 0° C. for an additional 35 min then CuBr (28.23 g, 0.20 mol) and an additional volume of 16% HBr(aq) (150 mL) were added. The ice bath was removed and the suspension heated to 70° C. for 1 hr. The mixture was filtered hot. The filtrate was saturated with NaCl then extracted with EtOAc (2×400 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The crude brown oil/solid residue was used directly in the next step. A solution of the brown residue in EtOH (100 mL) and 1M NaOH (aq) (367 mL, 0.36 mol) was stirred and heated at reflux for 1 h. The reaction mixture was filtered then extracted with EtOAc (100 mL). The aqueous layer was separated and concentrated under reduced pressure to remove the remaining EtOH. The aqueous solution was acidified to pH 1 with 2N HCl(aq). The solid was filtered off and air dried to yield the title compound as a beige amorphous solid. MS m/z: 208 (M+H) 210 (M+3).

reactant | ethyl 2-aminothiazole-4-carboxylate hydrobromide | 0.17 mol, 29.99 g | Br.NC=1SC=C(N1)C(=O)OCC
reactant | NaNO2 | 0.18 mol, 12.49 g | N(=O)[O-].[Na+]
reactant | NaOH | 0.36 mol, 1M, 367 mL | [OH-].[Na+]
solvent | HBr | 400 mL | Br | BrH
solvent | H2O | 22 mL | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | HBr | 150 mL | Br | BrH
product | 2-Bromothiazole-4-carboxylic acid | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
